US03982001
b. 3.4-methylene dioxy-phenyl-magnesium bromide
1.35 g. magnesium chips and 20 ml. tetrahydrofuran are added in a nitrogen atmosphere to a flask provided with a stirrer, a drip funnel, a thermometer and a reflux condenser and a potassium hydroxide drying tube. The whole is then heated to 50° - 60°C and a few drops of bromine and a few drops of a solution of 11 g. 3.4-methylene dioxybromo-benzene in 50 ml. tetrahydrofuran are added. When the reaction has started, the remainder of the methylene dioxy bromo-benzene solution in tetrahydrofuran is added drop by drop for approximately 10 minutes and the resultant mixture is then left to react for 1 hour at 50° - 60°C. The Grignard solution obtained is used immediately for the reaction described below:

reactant | magnesium | [Mg] | Mg
reactant | 3.4-methylene dioxybromo-benzene | C1OC=2C=C(C=CC2O1)Br | C7H5BrO2
reactant | methylene dioxy bromo-benzene | C1OC2=C(C=CC=C2O1)Br | C7H5BrO2
catalyst | bromine | a few drops | BrBr | Br2
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 3.4-methylene dioxy-phenyl-magnesium bromide | C1OC=2C=C(C=CC2O1)[Mg]Br | InChI=1S/C7H5O2.BrH.Mg/c1-2-4-7-6(3-1)8-5-9-7;;/h1,3-4H,5H2;1H;/q;;+1/p-1
